US06017919
2-(2-Hydroxyethyl)-4-methoxy-3-pentyloxy-N-(2-pyridin-4-ylethyl)-benzamide (90 mg, 233 mmol, 1.0 eq) was dissolved in DMSO (2 ml), and triethylamine (0.3 ml, 2.10 mmol, 9 eq) and sulfur trioxide-pyridine complex (111.2 mg, 0.70 mmol, 3 eq) were successively added under ice-cooling. The mixture was stirred at room temperature for 4 hours. 3N Hydrochloric acid (15 ml) was added to this reaction mixture, and the mixture was stirred at room temperature for 1 hour. Sodium hydroxide was added to make the same alkaline. The solution was extracted twice with ethyl acetate (20 ml). The organic layers were combined, washed with saturated brine (40 ml) and dried over anhydrous sodium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (ethyl acetate) and recrystallized from ethyl acetate to give 2-[2-(4-pyridyl)ethyl]-methoxy-5-pentyloxy-2H-isoquinolin-1-one (40.2 mg, 47.1%) as colorless crystals.

reactant | 2-(2-Hydroxyethyl)-4-methoxy-3-pentyloxy-N-(2-pyridin-4-ylethyl)-benzamide | 233 mmol, 90 mg, 1.0 eq | OCCC1=C(C(=O)NCCC2=CC=NC=C2)C=CC(=C1OCCCCC)OC | C22H30N2O4
reactant | triethylamine | 2.10 mmol, 0.3 ml, 9 eq | C(C)N(CC)CC | C6H15N
reactant | Hydrochloric acid | 3N, 15 ml | Cl | ClH
reactant | Sodium hydroxide | [OH-].[Na+]
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 2-[2-(4-pyridyl)ethyl]-methoxy-5-pentyloxy-2H-isoquinolin-1-one | 40.2 mg, 47.1% | N1=CC=C(C=C1)CCN1C(C2=CC=CC(=C2C=C1OC)OCCCCC)=O | C22H26N2O3
